US06602899B1
4-Methyl-2-oxo-2H-1-benzopyran-7-yl 2,3,4-tri-O-propoxycarbonyl-5-thio-β-D-xylopyranoside
A solution of 100 mg (0.8.10−3 mol) of 4-dimethylaminopyridine in 12 ml of pyridine is prepared and 2.1 ml (18.7.10−3 mol) of propyl chloroformate are added at 0° C., followed by 1 g (3.1.10−3 mol) of 4-methyl-2-oxo-2H-1-benzopyran-7-yl 5-thio-β-D-xylopyranoside. The reaction mixture is stirred for 1 hour, a further 1 ml (8.9.10−3 mol) of propyl chloroformate is then added and stirring is continued for 1 hour. The mixture is then hydrolyzed in ice water and extracted with ethyl acetate. The organic phase is washed with dilute hydrochloric acid solution and then with water, dried and finally concentrated under reduced pressure. The residue is purified by chromatography on silica gel using a toluene/ethyl acetate mixture (4/1; v/v) as the eluent. The pure product fraction is crystallized from an ethyl acetate/ diethyl ether mixture to give 1.13 g of the expected product in the form of a fine and light white solid (yield=63%).

reactant | propyl chloroformate | 2.1 ml | ClC(=O)OCCC | C4H7ClO2
reactant | 4-methyl-2-oxo-2H-1-benzopyran-7-yl 5-thio-β-D-xylopyranoside | 1 g | O([C@H]1[C@H](O)[C@@H](O)[C@H](O)CS1)C1=CC2=C(C(=CC(O2)=O)C)C=C1 | C15H16O6S
reactant | propyl chloroformate | 1 ml | ClC(=O)OCCC | C4H7ClO2
catalyst | 4-dimethylaminopyridine | 8.10−3 mol, 100 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 12 ml | N1=CC=CC=C1 | C5H5N
product | 4-Methyl-2-oxo-2H-1-benzopyran-7-yl 2,3,4-tri-O-propoxycarbonyl-5-thio-β-D-xylopyranoside | 1.13 g | C(CC)OC(=O)O[C@H]1[C@H](OC2=CC3=C(C(=CC(O3)=O)C)C=C2)SC[C@H]([C@@H]1OC(=O)OCCC)OC(=O)OCCC | C27H34O12S
